US09024027B2
A solution of benzyl 2-(5-(methylsulfonamido)indolin-1-yl)acetate (0.565 g, 1.568 mmol) in methanol was added to a suspension of 10% w/w Pd/C (a catalytic amount) in water and the mixture was hydrogenated in a Parr apparatus at 30 psi overnight. The catalyst was filtered off and the filtrate was evaporated to dryness affording 2-(5-(methylsulfonamido)indolin-1-yl)acetic acid (0.351 g, 1.299 mmol, 83% yield). MS/ESI+ 271.0 [MH]+.

reactant | benzyl 2-(5-(methylsulfonamido)indolin-1-yl)acetate | 1.568 mmol, 0.565 g | CS(=O)(=O)NC=1C=C2CCN(C2=CC1)CC(=O)OCC1=CC=CC=C1 | C18H20N2O4S
solvent | methanol | CO | CH4O
solvent | water | O | H2O
catalyst | Pd/C | [Pd] | Pd
product | 2-(5-(methylsulfonamido)indolin-1-yl)acetic acid | 1.299 mmol, 0.351 g, 83% yield | CS(=O)(=O)NC=1C=C2CCN(C2=CC1)CC(=O)O | C11H14N2O4S
